US05484689
Phenylglyoxal monohydrate (304 mg, 2 mM) and m-xylene (0.49 ml, 4 mM) were dissolved in dichloroethane (4 ml), titanium tetrachloride (0.33 ml, 3 mM) was added, and reacted at room temperature for 30 minutes. Using the same procedure as in Example 1, 3', 5'-dimethylbenzoin was obtained as a light-yellow oil (363.2 mg, 75.3% yield).

reactant | Phenylglyoxal monohydrate | 2 mM, 304 mg | O.C1(=CC=CC=C1)C(=O)C=O
reactant | m-xylene | 4 mM, 0.49 ml | C1(=CC(=CC=C1)C)C | C8H10
solvent | dichloroethane | 4 ml | ClC(C)Cl | C2H4Cl2
catalyst | titanium tetrachloride | 3 mM, 0.33 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 3', 5'-dimethylbenzoin | CC=1C=C(C(C(C2=CC=CC=C2)=O)O)C=C(C1)C | C16H16O2
